US06639072B1
Conc. H2SO4 (1.365 L) and water (4.5 L) were charged into a suitable round bottom flak and the solution was cooled to 0° C. 2,3-Dichloroaniline (650 g, 4.012 moles) was added to the above solution and the reaction mixture was cooled and maintained at 0° C. A saturated solution of sodium nitrite (332.22 g, 4.815 moles) was added dropwise to the reaction while maintaining the temperature below 5° C. The reaction mixture was stirred at 0-5° C. for 1 hr and neutralised with sodium hydroxide at 0-5° C. The neutral solution was added dropwise to the cyanide solution [Cyanide solution obtained by mixing Cu(one)CN (365 g, 4.10 moles), NaCN (340 g 6.93 moles) and water (1.0 L)] at 65° C., under vigorous stirring for a period of 15 mins. The reaction mixture was warmed to 70° C. and stirred for another 15 mins. The 2,3-dichlorobenzonitrile so formed was extracted using ethylacetate (2.0 L). The organic layer was died over sodium sulfate and stripped to give a semi-solid mass of 2,3-dichlorobenzonitile (C6H3Cl2CN).

reactant | H2SO4 | 1.365 L | OS(=O)(=O)O | H2O4S
reactant | 2,3-Dichloroaniline | 4.012 moles, 650 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | sodium nitrite | 4.815 moles, 332.22 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyanide | 4.10 moles, 1.0 L, 365 g | [C-]#N
solvent | water | 4.5 L | O | H2O
product | 2,3-dichlorobenzonitrile | ClC1=C(C#N)C=CC=C1Cl | C7H3Cl2N
